US08486943B2
[(S)-7-Cyano-4-((2R,3R)-3-hydroxy-pyrrolidin-2-ylmethyl)-1,2,3,4-tetrahydro-cyclopenta[b]indol-2-yl]-carbamic acid isopropyl ester hydrochloride
A solution of (2R,3R)-3-(2-chloro-acetoxy)-2-((S)-7-cyano-2-isopropoxycarbonylamino-2,3-dihydro-1H-cyclopenta[b]indol-4-ylmethyl)-pyrrolidine-1-carboxylic acid tert-butyl ester (500 mg, 894.4 μmol) in MeOH (2 mL) is treated with 2 N LiOH solution (2 mL) and the suspension is stirred for 4 h at room temperature. The suspension is diluted with ethyl acetate (60 mL) and washed with water and brine. The organic portion is dried over sodium sulfate, filtered, and concentrated. The residue (0.39 g) is dissolved in 10 mL of MeOH (10 mL) and treated with 4 N HCl in 1,4-dioxane solution (10 mL). The solution is stirred for 2 h and concentrated in vacuo to afford 0.37 g (92%) of the title compound. LC-ES/MS m/z 383.2 [M+H]+, TR=1.86 min.

reactant | (2R,3R)-3-(2-chloro-acetoxy)-2-((S)-7-cyano-2-isopropoxycarbonylamino-2,3-dihydro-1H-cyclopenta[b]indol-4-ylmethyl)-pyrrolidine-1-carboxylic acid tert-butyl ester | 894.4 μmol, 500 mg | C(C)(C)(C)OC(=O)N1[C@@H]([C@@H](CC1)OC(CCl)=O)CN1C2=C(C=3C=C(C=CC13)C#N)C[C@@H](C2)NC(=O)OC(C)C | C28H35ClN4O6
reactant | LiOH | 2 N, 2 mL | [Li+].[OH-]
solvent | MeOH | 2 mL | CO | CH4O
solvent | ethyl acetate | 60 mL | C(C)(=O)OCC | C4H8O2
product | [(S)-7-Cyano-4-((2R,3R)-3-hydroxy-pyrrolidin-2-ylmethyl)-1,2,3,4-tetrahydro-cyclopenta[b]indol-2-yl]-carbamic acid isopropyl ester hydrochloride | 0.37 g, 92% | Cl.C(C)(C)OC(N[C@H]1CC2=C(N(C=3C=CC(=CC23)C#N)C[C@H]2NCC[C@H]2O)C1)=O | InChI=1S/C21H26N4O3.ClH/c1-12(2)28-21(27)24-14-8-16-15-7-13(10-22)3-4-18(15)25(19(16)9-14)11-17-20(26)5-6-23-17;/h3-4,7,12,14,17,20,23,26H,5-6,8-9,11H2,1-2H3,(H,24,27);1H/t14-,17+,20+;/m0./s1
